US06200976B1
a. 4-{[7-(2-formyl-phenyl)-4-methyl-quinolin-2-yl]-oxy}-benzonitrile
Prepared analogously to Example 27e from 4-[(7-bromo-4-methyl-quinolin-2-yl)oxy]-benzonitrile, 2-formylbenzeneboric acid, sodium carbonate and tetrakis-(triphenylphosphine)-palladium (0) in toluene/water.

reactant | 4-[(7-bromo-4-methyl-quinolin-2-yl)oxy]-benzonitrile | BrC1=CC=C2C(=CC(=NC2=C1)OC1=CC=C(C#N)C=C1)C | C17H11BrN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene water | C1(=CC=CC=C1)C.O
catalyst | tetrakis-(triphenylphosphine)-palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-{[7-(2-formyl-phenyl)-4-methyl-quinolin-2-yl]-oxy}-benzonitrile | C(=O)C1=C(C=CC=C1)C1=CC=C2C(=CC(=NC2=C1)OC1=CC=C(C#N)C=C1)C | C24H16N2O2
